US08293768B2
A solution of 4-(chloromethyl)pyrimidine (4.10 g, 31.9 mmol, prepared according to R. W. Carling et al., J. Med. Chem., (2004), Vol. 47, pp. 1807-1822) and potassium phthalimide (5.91 g, 31.89 mmol) in N,N-dimethylformamide (60 mL) was heated to 110° C. for 16 hours. The reaction mixture was cooled to ambient temperature, and concentrated in vacuo. The residue was dissolved in dichloromethane (100 mL), washed with water (50 mL) and brine (50 ml). The organic layer was dried over anhydrous sodium sulphate, filtered and concentrated in vacuo. The residue was purified by column chromatography eluted with 40-50% ethyl acetate in hexanes to afford 2-(pyrimidin-4-ylmethyl)isoindoline-1,3-dione in 40% yield (3.0 g): 1H NMR (300 MHz, CDCl3) δ 9.13 (s, 1H), 8.70 (br s, 1H), 7.93-7.86 (m, 2H), 7.79-7.75 (m, 2H), 7.30 (d, J=6.0 Hz, 1H), 4.99 (s, 2H); MS (ES+) m/z 240.1 (M+1).

reactant | 4-(chloromethyl)pyrimidine | ClCC1=NC=NC=C1 | C5H5ClN2
reactant | potassium phthalimide | 31.89 mmol, 5.91 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | N,N-dimethylformamide | 60 mL | CN(C=O)C | C3H7NO
product | 2-(pyrimidin-4-ylmethyl)isoindoline-1,3-dione | 40% yield | N1=CN=C(C=C1)CN1C(C2=CC=CC=C2C1=O)=O | C13H9N3O2
